US05773428
To a solution of 4-methyl-2-acetylthiomethylpentanoic acid (612 mg, 3 mmol), (10S)-10-amino-(9-oxo-1,8-diaza-tricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraene (427 mg, 1.5 mmol), and HOBt.H2O (230 mg, 1.5 mmol) in dry DMF (30 mL) under argon at room temperature was added EDCI (863 mg, 4.5 mmol) in one portion. After stirring overnight, DMF was removed at 30° C. under high vacuum to give a yellowish semi-solid. It was dissolved in ethyl acetate (50 mL), washed with 1N HCl (30 mL), 5% NaHCO3 solution (30 mL) and finally brine (30 mL). The organic layer was dried (MgSO4) and evaporated to dryness. The resulting pale yellow-oil was stirred in 50% ether-pet. ether (40 mL) to yield 600 mg (85%) of (10S)-2-acetylthiomethyl-4-methyl-N-(9-oxo-1,8-diaza-tricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-yl)pentanamide as 1:1 stereoisomeric mixture. The stereoisomeric mixture was separated in flash column chromatography (LPS-2), eluted with 20% ethyl acetate in pet. ether to give the less polar stereoisomer, m.p. 226° C., and the more polar stereoisomer, m.p. 220° C.

reactant | 4-methyl-2-acetylthiomethylpentanoic acid | 3 mmol, 612 mg | CC(CC(C(=O)O)CSC(C)=O)C | C9H16O3S
reactant | 9-oxo-1,8-diaza-tricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraene | 1.5 mmol, 427 mg | O=C1NCCCCCCN2C=3C=CC=CC3C(CC1)=C2 | C17H22N2O
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 1.5 mmol, 230 mg | O | H2O
reactant | EDCI | 4.5 mmol, 863 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
product | (10S)-2-acetylthiomethyl-4-methyl-N-(9-oxo-1,8-diaza-tricyclo[10.6.1.013,18 ]nonadeca-12(19),13(18),14,16-tetraen-10-yl)pentanamide | 600 mg, 85% | C(C)(=O)SCC(C(=O)N[C@@H]1C(NCCCCCCN2C=3C=CC=CC3C(C1)=C2)=O)CC(C)C | C26H37N3O3S
